US07741315B2
Step 3: 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-(2-morpholin-4-ylethyl)-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione
A mixture of 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-(2-methane-sulfonylethyl)-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(1H)-trione (97 mg, 0.17 mmol), morpholine (30 mg, 0.35 mmol), and diisopropylethylamine (006 mL, 0.355 mmol) in THF (1.7 mL) was stirred at 40° C. overnight. The product mixture was concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with gradient mixture of methanol in dichloromethane. Collection and concentration of appropriate fractions afforded the title compound. 1H NMR (400 MHz, CDCl3) δ 7.37 (dd, J=2.0, 7.0 Hz, 1H), 7.21 (m, 1H), 7.12 (t, J=8.8 Hz, 1H), 4.80 (dd, J=6.2, 13.9 Hz, 1H), 4.74 (d, J=15.0 Hz, 1H), 4.62 (d, J=14.8 Hz, 1H), 4.12-4.07 (m, 4H), 3.69-3.64 (m, 4H), 3.45-3.30 (m, 5H), 3.20-3.13 (m, 1H), 2.90-2.83 (m, 1H), 2.66-2.42 (m, 7H), 2.08 (br m, 1H), 1.91-1.72 (br m, 3H). (ES MS M+1=547.4)

reactant | 11-(3-chloro-4-fluorobenzyl)-9-methoxy-2-(2-methane-sulfonylethyl)-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(1H)-trione | 0.17 mmol, 97 mg | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCS(=O)(=O)C)=O)=O)OC)=O)C=CC1F | C24H27ClFN3O6S
reactant | morpholine | 0.35 mmol, 30 mg | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 0.355 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 1.7 mL | C1CCOC1 | C4H8O
product | 11-(3-Chloro-4-fluorobenzyl)-9-methoxy-2-(2-morpholin-4-ylethyl)-3,4,5,6,12,13-hexahydro-2H[1,4]diazocino[2,1-a]-2,6-naphthyridine-1,8,10(11H)-trione | ClC=1C=C(CN2C(C3=C(C(N4C(=C3CC2)C(N(CCCC4)CCN4CCOCC4)=O)=O)OC)=O)C=CC1F | C27H32ClFN4O5
